US07973175B2
(2S,4R,5R)-4-Isopropenyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester VIIa
A suspension of 0.104 g (0.0026 mol) of a 60% suspension of sodium hydride in mineral oil in 20 mL of tetrahydrofuran is treated with 0.89 g (0.0025 mol) of methyltriphenylphosphonium bromide. The white suspension is heated to 50° C. and stirred for 7 hours at this temperature. The red suspension is cooled to 0° C. and a solution of (2S,4S,5R)-4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester (0.60 g, 0.00125 mol) dissolved in 5 mL of tetrahydrofuran is added. The mixture is stirred for 1.5 hours at 0° C. and diluted with 20 mL of tert-butylmethyl ether. A 10% aqueous solution of citric acid (25 mL) is added and the mixture extracted. The aqueous phase is re-extracted with a further 20 mL of tert-butyl methyl ether and the organic phases combined. The combined organic phases are washed with 20 mL of water containing 10 mL of saturated aqueous sodium hydrogen carbonate followed by 30 mL of water. The organic phase is dried and the solvent removed in vacuum at 30° C. to give the crude product as an oil. This oil is chromatographed over silica-gel, eluting with heptane/ethyl acetate (4/1) to give the desired product.

reactant | sodium hydride | [H-].[Na+]
reactant | (2S,4S,5R)-4-Acetyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 0.00125 mol, 0.60 g | CCOC(=O)[C@H]1N([C@H]([C@H](C1)C(C)=O)C1=CC(=C(C=C1)OC)OCCCOC)C(=O)OC(C)(C)C | C25H37NO8
reactant | citric acid | 25 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 0.0025 mol, 0.89 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tert-butylmethyl ether | 20 mL | C(C)(C)(C)OC | C5H12O
product | (2S,4R,5R)-4-Isopropenyl-5-[4-methoxy-3-(3-methoxy-propoxy)-phenyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | CCOC(=O)[C@H]1N([C@H]([C@H](C1)C(=C)C)C1=CC(=C(C=C1)OC)OCCCOC)C(=O)OC(C)(C)C | C26H39NO7
